US05055479
6-(2-Hydroxyethyl)-5-methylpyrazolo[1,5-a]pyrimidin-7(4H)one
A solution of 49.86 g (0.6 mole) of 3-aminopyrazole and 84.56 g (0.66 mole) of α-acetyl-γ-butyrolactone dissolved in 60 ml of N,N-dimethylformamide was heated under reflux for 2 hours. At the end of this time, the reaction mixture was cooled to room temperature, after which 100 ml of ethanol was added to it and the precipitated crystals were collected by filtration. They were then washed with ethanol to afford 104.9 g (yield 90%) of the title compound as prisms, melting at 225°-226° C.

reactant | 3-aminopyrazole | 0.6 mole, 49.86 g | NC1=NNC=C1 | C3H5N3
reactant | α-acetyl-γ-butyrolactone | 0.66 mole, 84.56 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-(2-Hydroxyethyl)-5-methylpyrazolo[1,5-a]pyrimidin-7(4H)one | 104.9 g, yield 90% | OCCC1=C(NC=2N(C1=O)N=CC2)C | C9H11N3O2
